US03996229
411 G. of 2-iodo-4-methoxy-benzoic acid, 4 liters of methanol and 400 ml. of concentrated sulfuric acid are heated under reflux for 4 hours. The solution is evaporated under reduced pressure, treated with water and extracted with ether. The organic phase is washed successively with aqueous sodium thiosulfate and aqueous sodium bicarbonate and then dried over sodium sulfate. The solution is filtered, evaporated under reduced pressure, distilled, and there is obtained 2-iodo-4-methoxy-benzoic acid methyl ester having a boiling point of 95°-98° C./0.04 mm.

reactant | 2-iodo-4-methoxy-benzoic acid | IC1=C(C(=O)O)C=CC(=C1)OC | C8H7IO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 4 liters | CO | CH4O
product | 2-iodo-4-methoxy-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)OC)I)=O | C9H9IO3
